US04690931
5. 2-Bromo-4'-benzyloxy-3'-hydroxymethylpropiophenone
200 ml of tetrahydrofuran and 6 g of the previously prepared propiophenone are placed in a 500 ml conical flask. 2.07 g (1.84 ml) of pyrrolidinone and 12.05 g of pyrrolidinone hydrotribromide are added and the mixture is heated under reflux for one hour. A whitish precipitate forms and is filtered off, the filtrate is evaporated to dryness, the residual oil is taken up in chloroform and the organic phase thus obtained is washed, dried and evaporated and the residue crystallized from a mixture of toluene and pentane. 7 g of a product which melts at 80° C. are thus isolated.

reactant | propiophenone | C(CC)(=O)C1=CC=CC=C1 | C9H10O
reactant | pyrrolidinone | 1.84 ml, 2.07 g | N1C(CCC1)=O | C4H7NO
reactant | pyrrolidinone hydrotribromide | 12.05 g | C1CC(=O)NC1.Br[Br-]Br
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-Bromo-4'-benzyloxy-3'-hydroxymethylpropiophenone | 7 g | BrC(C(=O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)CO)C | C17H17BrO3
